US05461143
ManNAc (200 mg) and 50 mg of subtilisin mutant 8399 were added to a mixture of lactic acid ethyl ester (4 mL) and 400 mL of 0.5 N phosphate buffer (pH 7.5). The reaction mixture was shaken under 50° C. for three days. The solvent was then evaporated and methanol was added to the residue. After the insoluble materials were filtered off, the filtrate was concentrated. The residue was chromatographed on silica gel with ethyl acetate/methanol (5/1) to give 6-O-Lactyl N-acetylmannosamine in 50 percent yield.

reactant | ManNAc | 200 mg | OC1[C@H]([C@@H](O)[C@H](O)[C@H](O1)CO)NC(=O)C | C8H15NO6
reactant | lactic acid ethyl ester | 4 mL | C(C)OC(C(O)C)=O | C5H10O3
solvent | phosphate | 0.5 N, 400 mL, pH 7.5 | P(=O)([O-])([O-])[O-]
product | 6-O-Lactyl N-acetylmannosamine | 50 percent yield | C(C(O)C)(=O)OC[C@@H]1[C@H]([C@@H]([C@@H](C(O)O1)NC(C)=O)O)O | C11H19NO8
